US07960409B2
Step 1: 4-(1-ethoxyvinyl)-7-methyl-2H-chromen-2-one
To a solution of 7-methyl-2-oxo-2H-chromen-4-yl trifluoromethanesulfonate (prepared as described in U.S. Pat. No. 5,552,437) (2.5 g, 8.1 mmol) and tributyl(1-ethoxyvinyl)tin (2.88 mL, 8.5 mmol) in 1,4-dioxane (25 mL), lithium chloride (1.03 g, 24.3 mmol) was added. The reaction flask was then purged twice with nitrogen and tetrakis(triphenylphosphine) palladium(0) (468 mg, 0.405 mmol) was added. The reaction was then heated overnight at 100° C. After cooling, the reaction mixture was concentrated under reduced pressure and the crude residue obtained was diluted with ethyl acetate, washed with a saturated ammonium chloride aq. solution, water and brine, dried over MgSO4, filtered and concentrated. The crude residue obtained was purified by column chromatography (EtOAc/hexanes, 25:75 to 40:60) to afford the title compound. 1H NMR (400 MHz, acetone-d6): 7.76 (d, 1H), 7.22 (s, 1H), 7.19 (d, 1H), 6.35 (s, 1H), 4.64 (d, 1H), 4.61 (d, 1H), 4.04 (q, 2H), 2.47 (s, 3H), 1.40 (t, 3H).

reactant | 7-methyl-2-oxo-2H-chromen-4-yl trifluoromethanesulfonate | FC(S(=O)(=O)OC1=CC(OC2=CC(=CC=C12)C)=O)(F)F | C11H7F3O5S
reactant | tributyl(1-ethoxyvinyl)tin | 8.5 mmol, 2.88 mL | C(CCC)[Sn](C(=C)OCC)(CCCC)CCCC
reactant | lithium chloride | 24.3 mmol, 1.03 g | [Cl-].[Li+]
solvent | 1,4-dioxane | 25 mL | O1CCOCC1 | C4H8O2
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
catalyst | tetrakis(triphenylphosphine) palladium(0) | 0.405 mmol, 468 mg | [Pd].C1(=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1.C1(=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1.C1(=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1.C1(=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1
product | 4-(1-ethoxyvinyl)-7-methyl-2H-chromen-2-one | C(C)OC(=C)C1=CC(OC2=CC(=CC=C12)C)=O | C14H14O3
